US05691333
In a manner similar to that described in EXAMPLE 2, methyl iodide was reacted with 5-amino-1-[2-bromo-6-chloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carbothioamide (Compound 6, prepared as described in applicants' concurrently filed, copending application referenced in EXAMPLE 2 above) to give 5-amino-1-[2-bromo-6-chloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboximidothioic acid methyl ester having a melting point of 203.5° C. This compound is referred to hereinafter as Compound 4.

reactant | methyl iodide | CI | CH3I
reactant | 5-amino-1-[2-bromo-6-chloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carbothioamide | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Br)C(N)=S)S(=O)C | C12H9BrClF3N4OS2
product | 5-amino-1-[2-bromo-6-chloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboximidothioic acid methyl ester | CSC(=N)C1=NN(C(=C1S(=O)C)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Br | C13H11BrClF3N4OS2
